US09238639B2
C) (2-Methyl-5-(trifluoromethyl)-3-furyl)methanol
To a mixture of ethyl 2-methyl-5-(trifluoromethyl)furan-3-carboxylate (720 mg) and THF (dry) (10 mL) was added lithium aluminum hydride (123 mg) at 0° C., and the mixture was stirred for 3 h. The mixture was quenched with EtOAc at 0° C. and 1N HCl was added to the mixture at same temperature. The organic layer was separated, washed successively with 1N HCl and brine, dried over MgSO4 and concentrated in vacuo to give title compound.

reactant | ethyl 2-methyl-5-(trifluoromethyl)furan-3-carboxylate | 720 mg | CC=1OC(=CC1C(=O)OCC)C(F)(F)F | C9H9F3O3
reactant | lithium aluminum hydride | 123 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2-Methyl-5-(trifluoromethyl)-3-furyl)methanol | CC=1OC(=CC1CO)C(F)(F)F | C7H7F3O2
